US09034866B2
Into a 20 L 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen was placed a solution of 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl chloride (460 g, 1.40 mol, 1.00 equiv) in tetrahydrofuran (4.5 L), followed by the addition ammonia (0° C.) (9 L) in one portion. The resulting solution was stirred at 0=8° C. for 5 h. The reaction progress was monitored by LCMS. The precipitates were collected by filtration, washed with 5×500 mL of water and 3×500 mL of EA, and dried in a vacuum oven to afford 300 g (69%) of 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide as an off-white solid. LC-MS: 308 [M+H]+1H-NMR (300 MHz, DMSO, ppm): δ 4.48 (4H, s), 6.99-7.02 (1H, d), 7.16 (1H, s), 7.43-7.47 (1H, m), 7.59 (1H, s), 7.80 (1H, s), 8.62-8.63 (1H, d).

reactant | 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl chloride | 1.40 mol, 460 g, 1.00 equiv | BrC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)Cl)C1 | C12H8BrClN2O2
reactant | ammonia | 9 L | N | H3N
solvent | tetrahydrofuran | 4.5 L | O1CCCC1 | C4H8O
product | 9-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 300 g, 69% | BrC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1 | C12H10BrN3O2
